2117-02-01 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2117-2-1**] 01:25 AM
 SHEATH - START [**2117-2-1**] 01:25 AM
   sheath was placed in IR via r chest hickman catheter. dsg cd&i. heparin
   infusing through the sheath. tpa infusing thru the catheter.
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2117-2-1**] 03:00 AM
   Infusions:
   Alteplase (TPA) - 0.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-2-1**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 136 (105 - 136) bpm
   BP: 108/70(79) {108/70(79) - 131/89(96)} mmHg
   RR: 32 (11 - 32) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             1,155 mL
   PO:
             TF:
   IVF:
   1,155 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    850 mL
   Urine:
   850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    305 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Gen: NAD
   HEENT: PERRL, fundi not able to visualize, EOMI, laceration on left
   eye, no hematoma on scalp, diffuse swelling of face and neck with
   erythema , contusion L eye
   Neck: swelling  bilat
   CV: RRR no MRG, nl S1, S2
   Resp: CTA b/l
   Abd: NABS, soft, NTND, no guarding/rigidity/rebound
   Ext: asymmetric LUE edema, 2+/4 symmetric pedal pulses
   Labs / Radiology
   343 K/uL
   10.2 g/dL
   139 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.8 mEq/L
   15 mg/dL
   103 mEq/L
   137 mEq/L
   30.7 %
   11.4 K/uL
        [image002.jpg]
                             [**2117-2-1**]  02:50 AM
                             [**2117-2-1**]  05:56 AM
   WBC
   11.9
   11.4
   Hct
   31.2
   30.7
   Plt
   319
   343
   Cr
   0.7
   Glucose
   139
   Other labs: PT / PTT / INR:12.3/20.7/1.0, ALT / AST:17/20, Alk Phos / T
   Bili:122/0.4, Fibrinogen:382 mg/dL, LDH:169 IU/L, Ca++:9.3 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1166**] is a 48-year-old gentleman with a history of AML now five
   months following his matched unrelated allogeneic transplant with
   complications of BOOP and recent RSV infection, now p/w SVC syndrome.
   .
   # SVC syndrome: likely due to hypercoagulability in the context of
   cancer and foreign body in SVC. No evidence of respiratory compromise.
   - SVC clot on CT, TPA started by IR
   - follow IR recs overnight, will go back at 9AM
   - monitor for bleeding, guaiac
   - Vancomycin for possible line infection at least one more day
   - hold antihypertensives for now
   - HCT q4h
   - type and cross
   .
   # Pleural Effusions - new, with small pericardial effusion, unclear
   etiology possible thoracic duct obstruction, will monitor closely
   - check pulsus and EKG for alternans to r/o tamponade
   - ECHO to look at diastolic filling
   .
   # AML: recent bone marrow aspirate and biopsy on [**2116-12-14**] revealed no
   evidence for leukemia and he is [**Age over 90 **]% donor by a cytogenetics.
   - follow counts
   .
   # Pulmonary. Recent RSV pneumonia also concern for BOOP in the past.
   No O2 requirement.
   - atovaquone for PCP prophylaxis and Voriconazole for fungal coverage
   along with acyclovir for zoster prophylaxis.
   - continue Prednisone for BOOP
   .
   # GVHD. Mr. [**Known lastname 1166**] has no indications for active GVHD at
   this time. He will remain on his current dose of Neoral at 50 mg
   twice per day with a taper as directed.
   .
   # FEN: NPO for procedure, IVFs, replete lytes
   .
   ICU Care
   Nutrition:
   NPO
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2117-2-1**] 01:25 AM
   Sheath - [**2117-2-1**] 01:25 AM
   20 Gauge - [**2117-2-1**] 01:25 AM
   Prophylaxis:
   DVT: Local Heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition: ICU

2117-02-01 09:19:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2117-02-02 07:08:00 Physician Resident Progress Note
Chief Complaint: Facial Swelling
   24 Hour Events:
 BLOOD CULTURED - At [**2117-2-1**] 12:30 PM
   left arm venipuncture
   -          IR procedure
 clot burden improved, catheter/sheath
   repositioned for further lysis of undissolved clot
   -          Hickman still partially in place but not removed [**1-9**] TPA
   -          ECHO EF 75%, neg for tamponade
   -          Pulsus 8,  no alternans on EKG
   History obtained from Patient
   Allergies:
   History obtained from PatientCefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2117-2-1**] 08:00 PM
   Infusions:
   Alteplase (TPA) - 0.5 mg/hour
   Heparin Sodium - 200 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2117-2-2**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Flowsheet Data as of  [**2117-2-2**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 119 (109 - 132) bpm
   BP: 131/101(109) {112/74(41) - 150/101(109)} mmHg
   RR: 28 (20 - 32) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,246 mL
                                                                  1,172 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  5,006 mL
                                                                  1,172 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    700 mL
   Urine:
                                                                  2,025 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,221 mL
                                                                    472 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Sclera edema, L eye mild conjunctival
   erythema
   Head, Ears, Nose, Throat: No(t) Normocephalic, massive facial swelling,
   MM dry
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: bilat UE edema.  L-side improved, R worse
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   326 K/uL
   9.8 g/dL
   139 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.8 mEq/L
   15 mg/dL
   103 mEq/L
   137 mEq/L
   30.8 %
   11.5 K/uL
        [image002.jpg]
                             [**2117-2-1**]  02:50 AM
                             [**2117-2-1**]  05:56 AM
                             [**2117-2-1**]  12:30 PM
                             [**2117-2-1**]  07:00 PM
                             [**2117-2-1**]  11:50 PM
                             [**2117-2-2**]  04:52 AM
   WBC
   11.9
   11.4
   11.5
   Hct
   31.2
   30.7
   29.0
   30.7
   29.6
   30.8
   Plt
   [**Telephone/Fax (3) 1172**]26
   Cr
   0.7
   Glucose
   139
   Other labs: PT / PTT / INR:12.4/23.6/1.0, ALT / AST:17/20, Alk Phos / T
   Bili:122/0.4, Fibrinogen:361 mg/dL, LDH:169 IU/L, Ca++:9.3 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1166**] is a 48-year-old gentleman with a history of AML now five
   months following his matched unrelated allogeneic transplant with
   complications of BOOP and recent RSV infection, now p/w SVC syndrome.
   .
   # SVC syndrome: likely due to hypercoagulability in the context of
   cancer and foreign body in SVC. No evidence of respiratory compromise.
   - SVC clot on CT, TPA started by IR
   - follow IR recs overnight, will go return for continued efforts to
   dissolve clot and reposition catheter
   - monitor for bleeding,
   - will talk to onc re d/cing Vancomycin
   - hold antihypertensives for now
   - HCT q8h
   - has type and screen from [**1-31**]
   .
   # Pleural Effusions - new, with small pericardial effusion, unclear
   etiology likely related to SVC syndrome , possible thoracic duct
   obstruction v PE as well, will monitor closely
   - pulsus 8 and EKG without alternans
   - ECHO
 EF 75%, no evidence of tampondae
   .
   # Sinus tachycardia
 stable, asymptomatic, not hypoxic. likely
   intravascularly dry though fluids net positive for admission, received
   several boluses with limited benefit.  Also, concern for PE in setting
   of SVC clot.  Pt has not had formal CTA for PE at this time but would
   not likely change long-term management as he will likely require
   longterm anticoagulation for SVC syndrome.
   -          touch base with onc and IR about ? of acute systemic
   anticoagulation for possible PE
   -          consider  possibly trying to coordinate with IR for CTA of
   lungs to r/o PE if pt increasingly symptomatic
   -          increased maintenance fluids to 125 cc/hr
   # AML: recent bone marrow aspirate and biopsy on [**2116-12-14**] revealed no
   evidence for leukemia and he is [**Age over 90 **]% donor by a cytogenetics.
   -          follow counts
   -          f/u onc rec
   .
   # Pulmonary. Recent RSV pneumonia also concern for BOOP in the past.
   No O2 requirement.
   - atovaquone for PCP prophylaxis and Voriconazole for fungal coverage
   along with acyclovir for zoster prophylaxis.
   - continue Prednisone for BOOP
   .
   # GVHD. Mr. [**Known lastname 1166**] has no indications for active GVHD at
   this time. He will remain on his current dose of Neoral at 50 mg
   twice per day with a taper as directed.
   .
   # FEN: NPO for procedure for now, IVFs, replete lytes
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2117-2-1**] 01:25 AM
   Sheath - [**2117-2-1**] 01:25 AM
   20 Gauge - [**2117-2-1**] 01:25 AM
   Comments: Hickman non-functional
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: local Heparin gtt, local TPA
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition:  ICU

2117-02-02 09:33:00 Physician Attending Progress Note
Chief Complaint: 48 yo M with AML s/p SCT c/b RSV, BOOP, hepatic
   [**Female First Name (un) 188**], with SVC syndrome receiving local TPA and hep
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 BLOOD CULTURED - At [**2117-2-1**] 12:30 PM
   left arm venipuncture
   Returned to IR yesterday--repositioned catheter with localized [**Last Name (un) 1177**] and
   heparin
   ECHO yesterday--no tamponade, ef 65%
          no pulses
   ECG without alternans
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2117-2-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2117-2-2**] 01:00 AM
   Other medications:
   Per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-2-2**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 119 (109 - 131) bpm
   BP: 131/101(109) {112/74(41) - 150/101(109)} mmHg
   RR: 28 (20 - 32) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,246 mL
                                                                  1,379 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  5,006 mL
                                                                  1,379 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    700 mL
   Urine:
                                                                  2,025 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,221 mL
                                                                    679 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: full neck
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), split p2, no RV heave
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : scant at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent, L > R UE swelling
   Musculoskeletal: Muscle wasting, atrophy LE muscles
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): X 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.8 g/dL
   326 K/uL
   139 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.8 mEq/L
   15 mg/dL
   103 mEq/L
   137 mEq/L
   30.8 %
   11.5 K/uL
        [image002.jpg]
                             [**2117-2-1**]  02:50 AM
                             [**2117-2-1**]  05:56 AM
                             [**2117-2-1**]  12:30 PM
                             [**2117-2-1**]  07:00 PM
                             [**2117-2-1**]  11:50 PM
                             [**2117-2-2**]  04:52 AM
   WBC
   11.9
   11.4
   11.5
   Hct
   31.2
   30.7
   29.0
   30.7
   29.6
   30.8
   Plt
   [**Telephone/Fax (3) 1172**]26
   Cr
   0.7
   Glucose
   139
   Other labs: PT / PTT / INR:12.4/23.6/1.0, ALT / AST:17/20, Alk Phos / T
   Bili:122/0.4, Fibrinogen:361 mg/dL, LDH:169 IU/L, Ca++:9.3 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   48 yo M with AML s/p allogenic SCT course c/b boop, hepatic [**Female First Name (un) 188**],
   recent  RSV pna, now with SVC syndrome
SUPERIOR VENA CAVA SYNDROME (SVC)
    THROMBOEMBOLISM, OTHER
continue TPS/hep via localized catheter , IR
   today for ongoing therapy/reassessment, will clarify with onc plan for
   longterm anticoagulation, continue h/h monitoring, NPO except clears
   Remains on vanco given instrumentation
follow up cx
s negative to date,
   would d/c once final cx data returns negative
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
continue
   cyclosporin for GVHD prophy
check level, continue atovaquone,
   voriconazole, , and acyclovir, onc following
 HYPERTENSION, BENIGN
stable hemodynamically
 TACHYCARDIA, OTHER
seems dry on clinical exam
NPO,  remains stable on
   RA-1 L NC, micro emboli also likely possibility--but currently
   receiving local TPA/Hep, with systemic anticoagulation once TPA
   complete, discuss course of treatment with oncology team
 .H/O CRYPTOGENIC ORGANIZING PNEUMONIA (INCLUDE BRONCHIOLITIS
   OBLITERANS ORGANIZING PNEUMONIA, BOOP
stable, remains on prednisone 10
    daily
   ICU Care
   Nutrition: progress diet after IR, taking clears
   Glycemic Control:  well controlled, SSI
   Lines:
   Tunneled (Hickman) Line - [**2117-2-1**] 01:25 AM
   Sheath - [**2117-2-1**] 01:25 AM
   20 Gauge - [**2117-2-1**] 01:25 AM
   Prophylaxis:
   DVT:  sc heparin and pneumoboots
   Stress ulcer:  PPI
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition : remains in ICU
   Total time spent: 40

2117-02-03 07:24:00 Physician Resident Progress Note
Chief Complaint: Facial Swelling
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - STOP [**2117-2-2**] 03:00 PM
 SHEATH - STOP [**2117-2-2**] 03:00 PM
   sheath was placed in IR via r chest hickman catheter. dsg cd&i. heparin
   infusing through the sheath. tpa infusing thru the catheter.
 MULTI LUMEN - START [**2117-2-2**] 03:30 PM
   triple lumen replaced hickman
 BLOOD CULTURED - At [**2117-2-2**] 10:04 PM
   - IR procedure, clot resolving- hickman removed, stenotic veins
   ballooned, no plan for further TPA
   - started heparin gtt at 1000u/hr
   - 500cc bolus for mild tachycardia and IVF D5 1/2NS o/n
   - diet advanced
   History obtained from Patient
   Allergies:
   History obtained from PatientCefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2117-2-2**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth, swallowing w/o difficulty
   Respiratory: Cough, non-productive cough
   Psychiatric / Sleep: nightmares
   Flowsheet Data as of  [**2117-2-3**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 112 (105 - 129) bpm
   BP: 139/83(97) {129/68(85) - 146/89(120)} mmHg
   RR: 26 (22 - 32) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 8 (3 - 8)mmHg
   Total In:
                                                                  6,820 mL
                                                                    969 mL
   PO:
                                                                  2,050 mL
   TF:
   IVF:
                                                                  4,770 mL
                                                                    969 mL
   Blood products:
   Total out:
                                                                  3,200 mL
                                                                  1,200 mL
   Urine:
                                                                  3,200 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,620 mL
                                                                   -231 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: Sclera edema, improving
   Head, Ears, Nose, Throat: facial swelling improved, chin prominent
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , Diminished: R>L base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, Cyanosis, Bilat swelling of
   UEs, L>R, worse this am
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   206 K/uL
   9.4 g/dL
   134 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.0 mEq/L
   7 mg/dL
   102 mEq/L
   136 mEq/L
   27.9 %
   11.4 K/uL
        [image002.jpg]
                             [**2117-2-1**]  02:50 AM
                             [**2117-2-1**]  05:56 AM
                             [**2117-2-1**]  12:30 PM
                             [**2117-2-1**]  07:00 PM
                             [**2117-2-1**]  11:50 PM
                             [**2117-2-2**]  04:52 AM
                             [**2117-2-2**]  03:33 PM
                             [**2117-2-2**]  09:25 PM
                             [**2117-2-3**]  03:46 AM
   WBC
   11.9
   11.4
   11.5
   10.3
   12.5
   11.4
   Hct
   31.2
   30.7
   29.0
   30.7
   29.6
   30.8
   30.3
   29.2
   27.9
   Plt
   [**Telephone/Fax (3) 1172**]26
   248
   242
   206
   Cr
   0.7
   0.7
   0.6
   Glucose
   139
   173
   134
   Other labs: PT / PTT / INR:14.5/74.4/1.3, ALT / AST:17/20, Alk Phos / T
   Bili:122/0.4, Fibrinogen:361 mg/dL, LDH:169 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 THROMBOEMBOLISM, OTHER
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HYPERTENSION, BENIGN
 SUPERIOR VENA CAVA SYNDROME (SVC)
 TACHYCARDIA, OTHER
 .H/O CRYPTOGENIC ORGANIZING PNEUMONIA (INCLUDE BRONCHIOLITIS
   OBLITERANS ORGANIZING PNEUMONIA, BOOP,
   Mr. [**Known lastname 1166**] is a 48-year-old gentleman with a history of AML now five
   months following his matched unrelated allogeneic transplant with
   complications of BOOP and recent RSV infection, now p/w SVC syndrome.
   .
   # SVC syndrome: likely due to hypercoagulability in the context of
   cancer and foreign body in SVC. No evidence of respiratory compromise.
   - SVC clot on CT, TPA started by IR
   - follow IR recs overnight, will go return for continued efforts to
   dissolve clot and reposition catheter
   - monitor for bleeding,
   - will talk to onc re d/cing Vancomycin
   - hold antihypertensives for now
   - HCT q8h
   - has type and screen from [**1-31**]
   .
   # Pleural Effusions - new, with small pericardial effusion, unclear
   etiology likely related to SVC syndrome , possible thoracic duct
   obstruction v PE as well, will monitor closely
   - pulsus 8 and EKG without alternans
   - ECHO
 EF 75%, no evidence of tampondae
   .
   # Sinus tachycardia
 stable, asymptomatic, not hypoxic. likely
   intravascularly dry though fluids net positive for admission, received
   several boluses with limited benefit.  Also, concern for PE in setting
   of SVC clot.  Pt has not had formal CTA for PE at this time but would
   not likely change long-term management as he will likely require
   longterm anticoagulation for SVC syndrome.
   -               touch base with onc and IR about ? of acute systemic
   anticoagulation for possible PE
   -               consider  possibly trying to coordinate with IR for CTA
   of lungs to r/o PE if pt increasingly symptomatic
   -               increased maintenance fluids to 125 cc/hr
   # AML: recent bone marrow aspirate and biopsy on [**2116-12-14**] revealed no
   evidence for leukemia and he is [**Age over 90 **]% donor by a cytogenetics.
   -               follow counts
   -               f/u onc rec
   .
   # Pulmonary. Recent RSV pneumonia also concern for BOOP in the past.
   No O2 requirement.
   - atovaquone for PCP prophylaxis and Voriconazole for fungal coverage
   along with acyclovir for zoster prophylaxis.
   - continue Prednisone for BOOP
   .
   # GVHD. Mr. [**Known lastname 1166**] has no indications for active GVHD at
   this time. He will remain on his current dose of Neoral at 50 mg
   twice per day with a taper as directed.
   .
   # FEN: NPO for procedure, IVFs, replete lytes
   .
   PPX: local Heparin gtt, bowel regimen, PPI
   Access: PIV, Hickman
   Code: Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-2-2**] 03:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2117-02-03 13:32:00 Physician Attending Progress Note
Chief Complaint: SVC syndrome
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  48 yo M with AML s/p allogenic SCT course c/b boop, hepatic
   [**Female First Name (un) 188**], recent  RSV pna, now with SVC syndrome, likely microemboli
   24 Hour Events:
   Hickman catheter  d/c'd, TPA stopped with improvement in clot  on
   direct imaging by IR
   receiving systemic hep drip through triple lumen R SC
   mild tachycardia--bolused IVF
 BLOOD CULTURED - At [**2117-2-2**] 10:04 PM
   History obtained from Patient, house staff
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2117-2-3**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-2-3**] 01:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 105 (105 - 129) bpm
   BP: 122/84(92) {122/68(85) - 146/89(120)} mmHg
   RR: 32 (22 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 2 (2 - 10)mmHg
   Total In:
                                                                  6,820 mL
                                                                  1,788 mL
   PO:
                                                                  2,050 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  4,770 mL
                                                                  1,488 mL
   Blood products:
   Total out:
                                                                  3,200 mL
                                                                  2,600 mL
   Urine:
                                                                  3,200 mL
                                                                  2,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,620 mL
                                                                   -812 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, dependant edema, improved facial and neck swelling
   Eyes / Conjunctiva: PERRL, improved scleral edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL, Supraclavicular WNL
   TLC site clean
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Bronchial: , No(t) Wheezes : , Diminished: r > l base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right: Absent, Left: Absent, l arm/hand  more swollen, R
   arm edema, dependant edema
   Musculoskeletal: Muscle wasting, le's b/l
   Skin:  without rash
   Neurologic: Attentive, Follows simple commands, Oriented (to): X 3,
   Movement: Purposeful, No(t) Sedated, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   206 K/uL
   134 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.0 mEq/L
   7 mg/dL
   102 mEq/L
   136 mEq/L
   27.9 %
   11.4 K/uL
        [image002.jpg]
                             [**2117-2-1**]  02:50 AM
                             [**2117-2-1**]  05:56 AM
                             [**2117-2-1**]  12:30 PM
                             [**2117-2-1**]  07:00 PM
                             [**2117-2-1**]  11:50 PM
                             [**2117-2-2**]  04:52 AM
                             [**2117-2-2**]  03:33 PM
                             [**2117-2-2**]  09:25 PM
                             [**2117-2-3**]  03:46 AM
   WBC
   11.9
   11.4
   11.5
   10.3
   12.5
   11.4
   Hct
   31.2
   30.7
   29.0
   30.7
   29.6
   30.8
   30.3
   29.2
   27.9
   Plt
   [**Telephone/Fax (3) 1172**]26
   248
   242
   206
   Cr
   0.7
   0.7
   0.6
   Glucose
   139
   173
   134
   Other labs: PT / PTT / INR:14.5/74.4/1.3, ALT / AST:17/20, Alk Phos / T
   Bili:122/0.4, Fibrinogen:361 mg/dL, LDH:169 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.8 mg/dL
   Imaging: no imaging
   Assessment and Plan
   48 yo M with AML s/p allogenic SCT course c/b boop, hepatic [**Female First Name (un) 188**],
   recent  RSV pna, with SVC syndrome
SUPERIOR VENA CAVA SYNDROME (SVC)--s/p catheter directed TPA, now on
   systemic heparin drip as transitions to coumadin verses lovenox per onc
   team
   Received vanco given instrumentation
with cx
s negative, d/c today
   > THROMBOEMBOLISM, OTHER
 anticoagulation as above
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
continue
   cyclosporin for GVHD prophy
check level, continue atovaquone,
   voriconazole, , and acyclovir, onc following
   >  small pleural effusions
likely from SVC syndrome, suspect diminished
   venous return, should improve given resolution of clot, stable from
   respiratory standpoint, would repeat cxr in a few days to reassess
 HYPERTENSION, BENIGN
stable hemodynamically
 TACHYCARDIA, OTHER
dry on clinical exam, suspect also from possible
   component of microemoboli
   Systemic anticoagulation, continue to monitor , IVF and PO intake
 .H/O CRYPTOGENIC ORGANIZING PNEUMONIA (INCLUDE BRONCHIOLITIS
   OBLITERANS ORGANIZING PNEUMONIA, BOOP
stable on RA, remains on
   prednisone 10  daily
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2117-2-2**] 03:30 PM
can d/c once edema improved and able
   to place PIVs
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: not intubated
   Communication: ICU consent signed
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes